US04064106
n-Butyl bromide was reacted with the ammonium salt of diisobutylphosphinodithioic acid to obtain n-butyl diisobutylphosphinodithioate, a colorless liquid, b.p. 97°-103° C at 0.05 mm. which on testing lasted 200 hours longer than the control. The total number of hours required to reach failure was 1.4 times that of the control.

reactant | n-Butyl bromide | C(CCC)Br | C4H9Br
reactant | diisobutylphosphinodithioic acid | C(C(C)C)P(=S)(S)CC(C)C | C8H19PS2
product | n-butyl diisobutylphosphinodithioate | C(C(C)C)P(=S)(SCCCC)CC(C)C | C12H27PS2
